US07589042B2
Synthesis of 2-phenyl-4-fluorophenol
After adding 2-bromo-4-fluorophenol (4.16 g, 20.32 mmol, Aldrich) into a flask, nitrogen flow is allowed into the flask. Then, palladium acetate (0.22 g, 1.02 mmol), potassium phosphate (21.00 g, 91.19 mmol), phenylboronic acid (2.97 g, 24.36 mmol), triphenylphosphine (0.80 g, 3.06 mmol) were added into the flask. Dimethoxyethane (32 ml) and distilled water (8 ml) were added thereto and stirred thoroughly. The mixture was heated to 50° C. and stirred for 6 hours. When the reaction is over, the mixture was allowed to cool at a room temperature, and then the organic layer was separated from the mixture by using diethylether (10 ml×3) and water. After adding magnesium sulfate to the separated organic layer, it was stirred for 30 minutes. The mixture was filtered and volatile materials of the mixture were then removed. The residue was added in a dried flask and dissolved in methylenechloride. After decreasing the temperature up to −78° C., boron tribromide (30.48 ml of 1.0M solution in methylenechloride, Aldrich) was slowly dropped thereon. When the dropped boron tribromide settled down, it was then allowed to react for 1 hour, and the temperature of the mixture was raised at a room temperature, and then stirred for 12 hours. An organic layer was separated from the obtained product by using diethylether (10 ml×3) and water, and then the organic layer was stirred for 30 minutes with added magnesium sulfate. After filtration, the volatile materials were removed, and then the resulting product was purified through a chromatography column packed with silica gel using hexane and methylchloride (1.5:1) as mobile phase. Then, after removing the volatiles, 3.76 g of white solid was obtained.

reactant | 2-bromo-4-fluorophenol | 20.32 mmol, 4.16 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium phosphate | 91.19 mmol, 21.00 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 24.36 mmol, 2.97 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 3.06 mmol, 0.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 1.02 mmol, 0.22 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-phenyl-4-fluorophenol | 3.76 g, Yield: 98% | C1(=CC=CC=C1)C1=C(C=CC(=C1)F)O | C12H9FO
